US08071588B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}pentanediamide
To a solution of 5-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-5-oxopentanoic acid (0.0807 g, 0.200 mmol) in DCM (1 mL) was added 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperidinecarboxylate (0.0837 g, 0.220 mmol), HBTU (0.0910 g, 0.240 mmol), and TEA (0.0562 mL, 0.400 mmol), and was stirred at room temperature for 16 h. The reaction mixture was concentrated on a Glas-Col evaporator, purified using a Gilson HPLC and concentrated with Biotachi evaporator. The crude product was dissolved in DCM (0.6 mL), and TFA (0.2 mL) was added. The resultant mixture was left at room temperature for 1 h before being concentrated on a Glas-Col evaporator, purified using a Gilson HPLC (acidic conditions: with 0.1% TFA) and basified with an amine cartridge to afford the title compound 0.048 g (35%). LC-MS m/z 680.

reactant | 5-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-5-oxopentanoic acid | 0.200 mmol, 0.0807 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCCC(=O)O)=O)CC | C21H31N5O4
reactant | 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperidinecarboxylate | 0.220 mmol, 0.0837 g | NCC=1C=C(C=CC1)C1=CC(=CC=C1)CC1CCN(CC1)C(=O)OC(C)(C)C | C24H32N2O2
reactant | HBTU | 0.240 mmol, 0.0910 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}pentanediamide | 0.048 g, 35% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCCC(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CC2CCNCC2)=O)CC | C40H53N7O3
